US05128356
Methyl 3-nitro-4-valerylaminobenzoate
Fuming nitric acid (1.4 ml) was added dropwise to acetic anhydride (12 ml) under ice-cooling and then was added conc. sulfuric acid (0.1 ml). To the stirred mixture was added methyl 4-valerylaminobenzoate (2.3 g) under ice-cooling, followed by stirring for one hour. To the resultant mixture was added ice water, and the crystals separated out were recrystallized from ethyl acetate - hexane to give yellow prisms (2.14 g, 76%),

reactant | nitric acid | 1.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 4-valerylaminobenzoate | 2.3 g | C(CCCC)(=O)NC1=CC=C(C(=O)OC)C=C1 | C13H17NO3
product | Methyl 3-nitro-4-valerylaminobenzoate | 2.14 g, 76% | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1NC(CCCC)=O | C13H16N2O5
